US07335658B2
6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 5-chloro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (80%). m.p. 148-151° C. 1H NMR (400 MHz, CDCl3) δ 8.06, 7.85, 7.67, 7.54-7.50, 7.35, 7.01, 4.05-3.34, 1.73-1.46, 0.98. MS (ES+) m/z 484.3 (M+1).

reactant | 5-chloro-2-trifluoromethylbenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3Cl2F3O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)C(F)(F)F)=O)C | C22H25ClF3N5O2
